US05792863
A mixed solution comprising 8 ml of 30% sodium hydroxide solution, 1.012 g of N-acetyl-N',N'-di(2-ethylhexyl)-p-phenylenediamine and 10 ml of ethanol was allowed to react at 75° C. for a period of 5 hr. After the completion of the reaction, the reacted solution was introduced into water and the product was extracted by ethyl acetate. After ethyl acetate was distilled away, the residue was purified by silica gel column chromatography to obtain 501 mg of oil of N,N-di(2-ethylhexyl)-p-phenylenediamine (yield 53.4%).

reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
reactant | N-acetyl-N',N'-di(2-ethylhexyl)-p-phenylenediamine | 1.012 g | C(C)(=O)NC1=CC=C(C=C1)N(CC(CCCC)CC)CC(CCCC)CC | C24H42N2O
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N,N-di(2-ethylhexyl)-p-phenylenediamine | yield 53.4% | C(C)C(CN(C1=CC=C(C=C1)N)CC(CCCC)CC)CCCC | C22H40N2
